US07977477B2
To a mixture of 2-[1-(4-methoxy-benzyl)-4-nitro-1H-pyrazol-3-yl]-5-morpholin-4-ylmethyl-1H-benzimidazole (1.6 g, 3.57 mmol), Fe powder (2 g, 35 mmol) and FeSO4.7H2O (0.496 g, 1.78 mmol) was added 1,4-dioxane:water (5:1, 120 ml). The mixture was refluxed for 3 h, filtered through celite, washing with MeOH, and reduced in vacuo azeotroping with toluene. EtOAc (100 ml) was added and insoluble material removed via filtration. The filtrate was reduced in vacuo to give 1-(4-methoxy-benzyl)-3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine as a dark brown solid (1.4 g, 94%). (LC/MS: Rt 1.72, [M+H]+ 419).

reactant | 2-[1-(4-methoxy-benzyl)-4-nitro-1H-pyrazol-3-yl]-5-morpholin-4-ylmethyl-1H-benzimidazole | 3.57 mmol, 1.6 g | COC1=CC=C(CN2N=C(C(=C2)[N+](=O)[O-])C2=NC3=C(N2)C=CC(=C3)CN3CCOCC3)C=C1 | C23H24N6O4
catalyst | Fe | 35 mmol, 2 g | [Fe] | Fe
solvent | 1,4-dioxane water | 120 ml | O1CCOCC1.O
product | 1-(4-methoxy-benzyl)-3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 1.4 g, 94% | COC1=CC=C(CN2N=C(C(=C2)N)C2=NC3=C(N2)C=CC(=C3)CN3CCOCC3)C=C1 | C23H26N6O2
